US08557805B2
5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide
A mixture of 5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid (1.95 g), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.73 g), 1-hydroxybenzotriazole ammonium salt (1.37 g), and N,N-dimethylformamide (50 mL) was stirred at room temperature for 12 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (methanol:ethyl acetate:hexane=0:85:15 to 10:90:0, volume ratio) to give the title compound (2.06 g, yield 100%) as a white solid.

reactant | 5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 1.95 g | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C(=O)O)C=C1 | C21H21NO7S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.73 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole ammonium salt | 1.37 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | 5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide | 2.06 g, yield 100% | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C(=O)N)C=C1 | C21H22N2O6S
